US05652239
a. 3,3'-Dichlorohydrazobenzene
To a stirred solution of 50% NaOH (3 mL) was added 3-chloronitrobenzene (10 g, 64 mM). The suspension was warmed to 60° C. and zinc (9 g, 138 mM) was added. During the addition, the temperature of the reaction mixture was kept between 60° and 80° C. After the addition was complete, a solution of 20% NaOH (18 mL, 90 mM) was added followed by water (30 mL). An additional portion of zinc (12 g, 189 mM) was then added and the resulting mixture was stirred between 75°-80° C. for 2 hours. After cooling to room temperature, the mixture was added to ether (200 mL), stirred, and the liquid was decanted. The solids were then resuspended in ether and the extraction was repeated 3 times. The ether extracts were combined, dried (Na2SO4), and concentrated to give a yellow solid. This was purified by flash column chromatography using CH2Cl2 as elutant which afforded the titled compound as a yellow solid (5.5 g, 68%). NMR (CDCl3): 7.12 (t, J=8 Hz, 2H), 6.80 (m, 4H), 6.67 (dd, J1 =1 Hz, J2 =8 Hz, 2H), 5.66 (br s, 2H).

reactant | NaOH | 3 mL | [OH-].[Na+]
reactant | 3-chloronitrobenzene | 64 mM, 10 g | ClC=1C=C(C=CC1)[N+](=O)[O-] | C6H4ClNO2
reactant | NaOH | 90 mM, 18 mL | [OH-].[Na+]
reactant | water | 30 mL | O | H2O
catalyst | zinc | 138 mM, 9 g | [Zn] | Zn
catalyst | zinc | 189 mM, 12 g | [Zn] | Zn
solvent | ether | 200 mL | CCOCC | C4H10O
product | 3,3'-Dichlorohydrazobenzene | 5.5 g, 68% | ClC=1C=C(C=CC1)NNC1=CC(=CC=C1)Cl | C12H10Cl2N2
